US09371318B2
Step 1: Methyl 3-(1,3-dioxolan-2-yl)benzoate
A mixture of methyl 3-formylbenzoate (2.5 g, 15.2 mmol), ethylene glycol (4.2 mL, 75 mmol) and para-toluenesulfonic acid monohydrate (0.29 g, 1.52 mmol) in toluene (60 mL) was heated at reflux under Dean and Stark conditions for 4 hours. The reaction mixture was diluted with ethyl acetate and washed sequentially with saturated sodium hydrogen carbonate and brine. The organic phase was dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure to afford the title compound (3.09 g, 98%).

reactant | methyl 3-formylbenzoate | 15.2 mmol, 2.5 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | ethylene glycol | 75 mmol, 4.2 mL | C(CO)O | C2H6O2
reactant | para-toluenesulfonic acid monohydrate | 1.52 mmol, 0.29 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(1,3-dioxolan-2-yl)benzoate | 3.09 g, 98% | O1C(OCC1)C=1C=C(C(=O)OC)C=CC1 | C11H12O4
